***************************************************
* Sample file for Add Part and Import wizards     *
***************************************************
* Contains these "sample parts"                   *
***************************************************
* AD6         SUBCKT    *
* IRF5101a    SUBCKT    *
* 2N2222C     NPN       *
* LF155_NSa   SUBCKT    *
* SSM2275_AD1 SUBCKT    *
*************************
*
* 1) This part matches nothing in the library
.SUBCKT ODDBALL 1 2 3 5 8 13 21
.ENDS ODDBALL 
*
* 2) This part matches many parts in the library
.SUBCKT irf5101a 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.82703 LAMBDA=0 KP=2.48457
+CGSO=1.72132e-06 CGDO=5.99235e-11
RS 8 3 0.276929
D1 3 1 MD
.MODEL MD D IS=6.52734e-11 RS=0.0458243 N=1.2565 BV=100
+IBV=0.00025 EG=1.2 XTI=1 TT=0
+CJO=2.98645e-10 VJ=0.774158 M=0.422859 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0673242
RG 2 7 13.1694
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.85121e-10 VJ=0.500044 M=0.651006 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.40332e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS
*
* 3) This part is not a SUBCKT so it is ignored by the import function
.MODEL 2N2222C NPN (IS=10.0559F BF=267.68 NF=977.484M VAF=100 IKF=521.765M
+ ISE=1.37474P NE=1.75465 BR=5 IKR=985.068 ISC=107.73F RE=482.694M CJE=2P
+ MJE=500M CJC=5P MJC=500M TF=1.51126U XTF=499.994M VTF=10 ITF=53.719M TR=10N)
*
* 4) This part matches the LF155_NS part
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF155_NSa  1   2  99  50  28
*
*Features:
*Low input bias current =             30pA
*Low input offset current =            3pA
*High input impedance =              1Tohm
*Low input offset voltage =            1mV
*NOTE:Asymetrical slew rate not modeled.
*Use default gm=1e12
****************INPUT STAGE************** 
*
IOS 2 1 3P
*^Input offset current
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 100U
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 20K
R4 6 50 20K
*Fp2=20 MHz
C4 5 6 1.9894E-13
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.65MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 3E-3 1
*Input offset voltage.^
R8 99 49 50K
R9 49 50 50K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.63
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
F1 9 98 POLY(1) VA3 0 0 0 9.6796E7
G1 98 9 5 6 2E-3
R5 98 9 100MEG
VA3 9 11 0
*Fp1=23.7 HZ
C3 98 11 67.154P
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 530.52M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 9 1
VA8 26 27 0
R16 27 28 25
V5  28 25 -.1V
D4  25  9 DX
V4  24 28 -.1V
D3   9 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.25E-5 VTO=-2.00 IS=30E-12)
*
.ENDS
*******************
*
* 5) This part is matches the OP08_AD part
*******************
* OP09_AD SPICE Macro-model                Rev. A, June /1894
*                                      
* Copyright 1894 by Analogous Devices Ltd
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |  comp1
*                |  |  |  |  |  |  comp2
*                |  |  |  |  |  |  |
.SUBCKT OP09_AD  3  2  99 50 45 15 17
*
* INPUT STAGE
*
I1   1    50   4.0016E-6
Q1   5    2    1    QN
Q2   6    4    1    QN
R1   99   5    12.9307E3
R2   99   6    12.9307E3
CIN  2    3    1E-12
IOS  2    3    25E-12
D1   2    3    DX
D2   3    2    DX
EOS  4    3    POLY(1) (19,39) 70E-6 0.1
*
* 1ST GAIN STAGE
*
EREF 98   0    (39,0) 1
G1   98   9    (6,5) 77.3353E-3
R5   9    98   12.9307E3
E1   99   10   POLY(1) (99,39) -4 1
E2   11   50   POLY(1) (39,50) -4 1
D3   9    10   DX
D4   11   9    DX
*
* 2ND GAIN STAGE AND DOMINANT POLE AT 100HZ
*
G2   98   15   (9,39) 1.667E-6
RPI  15   98   600
C2   15   16   0.5E-12
GM1  16   98   (15,98) 1.5E-3
RL   16   98   200E6
RC   16   17   1E4
*
* COMMON MODE STAGE
*
ECM  18   98   POLY(2) (2,39) (3,39) 0 0.5 0.5
R6   18   19   1E6
R7   19   98   10
C3   18   19   159E-9
*
* POLE AT 125KHZ
*
G4   98   29   (16,39) 1E-6
R9   29   98   1E6
C9   29   98   1.273E-12
*
* POLE AT 3MHZ
*
G5   98   30   (29,39) 1E-6
R10  30   98   1E6
C10  30   98   53.052E-15
V1   99   31   2.4
V2   32   50   2.4
D5   30   31   DX
D6   32   30   DX
*
* OUTPUT STAGE
*
RS1  99   39   133.333E3
RS2  39   50   133.333E3
RO1  99   45   400
RO2  45   50   400
G7   45   99   (99,30) 2.5E-3
G8   50   45   (30,50) 2.5E-3
G9   98   60   (45,30) 2.5E-3
D9   60   61   DX
D10  62   60   DX
V7   61   98   DC 0
V8   98   62   DC 0
FSY  99   50   POLY(2) V7 V8 0.183E-3  1  1
D11  41   45   DX
D12  45   42   DX
V5   30   41   5.8
V6   42   30   5.8
.MODEL DX D()
.MODEL QN NPN(BF=2.5E3)
.ENDS
*
* 5) This part is matches the SSM2275_AD part
* SSM2275_AD1 SPICE Macro-Model Typcial Values * 8/97, Ver. 1
* TAM / ADSC
*
* Node assignments
*               noninverting input
*               |       inverting input
*               |       |       positive supply
*               |       |       |       negative supply
*               |       |       |       |       output
*               |       |       |       |       |
*               |       |       |       |       |
.SUBCKT SSM2275_AD1 1       2       99      50      45
*
* INPUT STAGE
*
Q1  4  3  5 QNIX
Q2  6  2  7 QNIX
RC1   99 11 15E3
RC2   99 12 15E3
RE1    5  8 1E3
RE2    7  8 1E3
EOS    3  1 POLY(2) (61,98) (73,98) 1E-3 1.78E-5 1
IOS    1  2 5E-9
ECMH1  4 11 POLY(1) (99,50) 0.9 -30E-3
ECMH2  6 12 POLY(1) (99,50) 0.9 -30E-3
ECML1  9 50 POLY(1) (99,50) 0.1 30E-3
ECML2 10 50 POLY(1) (99,50) 0.1 30E-3
D1     9  5 DX
D2    10  7 DX
D3    13  1 DZ
D4     2 13 DZ
IBIAS  8 50 200E-6
*
* CMRR=115 dB, ZERO AT 1kHz, POLE AT 10kHz
*
ECM1 60 98 POLY(2) (1,98) (2,98) 0 .5 .5
RCM1 60 61 159.2E3
RCM2 61 98 17.66E3
CCM1 60 61 1E-9
*
* PSRR=120dB, ZERO AT 400Hz
*
RPS1 70  0 1E6
RPS2 71  0 1E6
CPS1 99 70 1E-5
CPS2 50 71 1E-5
EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
RPS3 72 73 1.59E6
CPS3 72 73 250E-12
RPS4 73 98 1.59
*
* INTERNAL VOLTAGE REFERENCE
*
RSY1 99 91 100E3
RSY2 50 90 100E3
VSN1 91 90 DC 0
EREF 98  0 (90,0) 1
GSY  99 50 POLY(1) (99,50) 0.97E-3 -7E-6
*
* ADAPTIVE POLE AND GAIN STAGE
* AT Vsy= 5, fp=12.50MHz,Av=1
* AT Vsy=30, fp=18.75MHz,Av=1.16
*
G2  98 20 POLY(2) (4,6) (99,50) 0 80.3E-6 0 0 2.79E-6
VR1 20 21 DC 0
H1  21 98 POLY(2) VR1 VSN1 0 11.317E3 0 0 -28.29E6
C2  20 98 1.2E-12
*
* POLE AT 90MHz
*
G3 98 23 (20,98) 565.5E-6
R5 23 98 1.768E3
C3 23 98 1E-12
*
* GAIN STAGE
*
G1 98 30 (23,98) 733.3E-6
R1 30 98 9.993E3
CF 30 45 200E-12
D5 31 99 DX
D6 50 32 DX
V1 31 30 0.6
V2 30 32 0.6
*
* OUTPUT STAGE
*
Q3  46 42 99 QPOX
Q4  47 44 50 QNOX
RO1 46 48 30
RO2 47 49 30
VO1 45 48 15E-3
VO2 49 45 10E-3
RB1 41 42 200
RB2 43 44 200
EO1 99 41 POLY(1) (98,30) 0.7528 1
EO2 43 50 POLY(1) (30,98) 0.7528 1
*
* MODELS
*
.MODEL QNIX NPN(IS=1E-16,BF=400,KF=1.96E-14,AF=1)
.MODEL QNOX NPN(IS=1E-16,BF=100,VAF=130)
.MODEL QPOX PNP(IS=1E-16,BF=100,VAF=130)
.MODEL DX D(IS=1E-16)
.MODEL DZ D(IS=1E-14,BV=6.6)
.ENDS SSM2275_AD1
