.SUBCKT ga200sa60s 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 12, 01
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=4.48081 KP=311.905 LAMBDA=0 CGSO=0.00015
RD 7 9 1e-06
RS 4 8 1.09814e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=9.12388e-14 BF=1427.57 NF=1.5 VAF=127.326
+IKF=495972 ISE=2.75202e-09 NE=1.42541 BR=4.07788
+NR=0.752042 VAR=690.967 IKR=999.931 ISC=9.99794e-12
+NC=1.90054 RB=0.0001 IRB=203.851 RBM=1e-05
+RE=1e-08 RC=1e-08 XTB=0 XTI=0.710148
+EG=0.5 CJC=1.05616e-08 VJC=2.56063 MJC=0.9
+CJE=2.11232e-07 VJE=0.4 MJE=0.9 TF=2.2088e-07
RDS 7 4 1e8
RER 4 3 0.00168
RG 6 2 2.543
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=2.46593e-08 VJ=0.4 M=0.9 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 2.46593e-08
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS ga200sa60s
